US06969725B2
a] (S)-4-Benzyl-3-[(2S,3R)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one
(S)-4-Benzyl-3-ethoxyacetyl-oxazolidin-2-one (12.45 g, 47 mmol) (for the preparation of (S)-4-benzyl-3-ethoxyacetyl-oxazolidin-2-one see: D. Haigh, H. C. Birrell, B. C. C. Cantello, D. S. Eggleston, R. C. Haltiwanger, R. M. Hindley, A. Ramaswamy, N. C. Stevens, Tetrahedron: Asymmetry 1999, 10, 1353-1367) was dissolved in dry dichloromethane (270 ml) under an argon atmosphere and the solution was cooled to −78° C. Triethylamine (7.98 ml, 57 mmol) was added, followed by the slow addition, over approximately 20 min, of di-n-butylboron triflate (1 M solution in dichloromethane, 50 ml, 50 mmol) such that the reaction temperature was kept below −70° C. The mixture was stirred at −78° C. for 50 min, the cooling bath was replaced with an ice bath and the mixture stirred at 0° C. for additional 50 min before being recooled to −78° C. A solution of 4-benzyloxy-2-methyl-benzaldehyde (10.7 g, 47 mmol) in dry dichloromethane (130 ml) was added over ca. 45 min, such that the reaction temperature was maintained below −70° C. The resulting mixture was stirred at −78° C. for 45 min, warmed from −78° C. to 0° C. and stirred at 0° C. for a further 1.5 h. The reaction mixture was poured onto ice water/brine and extracted two times with dichloromethane. The combined extracts were washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, cyclohexane/AcOEt) to give 22.3 g (45.6 mmol, 96%) of the title compound as colorless oil. According to 1H-NMR spectroscopy, one of the four isomers is strongly predominating. The configuration was tentatively assigned as 2S,3R according to D. Haigh et al., Tetrahedron: Asymmetry 1999, 10, 1353-1367.

reactant | (S)-4-Benzyl-3-ethoxyacetyl-oxazolidin-2-one | 47 mmol, 12.45 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COCC)=O | C14H17NO4
reactant | Triethylamine | 57 mmol, 7.98 ml | C(C)N(CC)CC | C6H15N
reactant | di-n-butylboron triflate | 50 mmol, 1 M, 50 ml | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | 4-benzyloxy-2-methyl-benzaldehyde | 47 mmol, 10.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
solvent | dichloromethane | 270 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | (S)-4-Benzyl-3-[(2S,3R)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one | 45.6 mmol, 22.3 g, 96% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C29H31NO6
